US08314100B2
c) Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate
2-Amino-6-chloro-3-methoxyquinoxaline (629 mg, 3.00 mmol) and ethyl chloroformate (391 mg, 3.60 mmol) were dissolved in dichloromethane (50 ml) at room temperature and thereto pyridine (285 mg, 3.60 mmol) was added. The resulting mixture was stirred at room temperature for 10 hours and concentrated under the reduced pressure to remove the solvent, and purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (3:1) mixture and concentration gave 811 mg of the titled compound (yield, 96%).

reactant | 2-Amino-6-chloro-3-methoxyquinoxaline | 3.00 mmol, 629 mg | NC1=NC2=CC=C(C=C2N=C1OC)Cl | C9H8ClN3O
reactant | ethyl chloroformate | 3.60 mmol, 391 mg | ClC(=O)OCC | C3H5ClO2
reactant | pyridine | 3.60 mmol, 285 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate | 811 mg, 96% | ClC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12ClN3O3
